US04563476
A solution of 5-methoxy-2,3-dihydrobenzofuran (44.8 g, 299 mmol) in dry methylene chloride (690 mL) was cooled to 3° under nitrogen and titanium tetrachloride (53.5 mL, 92.34 g, 486 mmol) was added dropwise keeping the internal temperature below 7°. To the resulting mixture was added dropwise dichloromethylmethylether (22.3 mL, 28.34 g, 247 mmol) over one hour with the internal temperature maintained at 7°. The cooling bath was removed and the mixture allowed to stir for four hours, then quenched by the dropwise addition of water (120 mL). The resulting mixture was poured into water (100 mL) and the layers separated. The aqueous layer was washed with methylene chloride (2×250 mL), then the combined organic extracts were washed with 5% NaCl (1000 mL), dried (Na2SO4) and concentrated to a dark oil. Purification by preparation HPLC (Waters Prep 500, 15% ethyl acetate in hexane as eluant) afforded 5-methoxy-2,3-dihydrobenzofuran-6-carboxaldehyde as a pale yellow solid (20.64 g, 38.8%), m.p. 82-84° C.

reactant | 5-methoxy-2,3-dihydrobenzofuran | 299 mmol, 44.8 g | COC=1C=CC2=C(CCO2)C1 | C9H10O2
reactant | dichloromethylmethylether | 247 mmol, 22.3 mL, 28.34 g | ClC(Cl)OC | C2H4Cl2O
solvent | methylene chloride | 690 mL | C(Cl)Cl | CH2Cl2
catalyst | titanium tetrachloride | 486 mmol, 53.5 mL, 92.34 g | [Ti](Cl)(Cl)(Cl)Cl
product | 5-methoxy-2,3-dihydrobenzofuran-6-carboxaldehyde | 20.64 g, 38.8% | COC=1C(=CC2=C(CCO2)C1)C=O | C10H10O3
